US09193693B2
A solution of 4-(4-(trifluoromethyl)phenyl)piperidine (200 mg, 0.87 mmol, 2.00 equiv), methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (150 mg, 0.44 mmol, 1.00 equiv), and DIEA (169 mg, 1.31 mmol, 3.00 equiv) in DMF (10 mL) was placed in a 20-mL sealed tube and stirred overnight at 100° C. in an oil bath. The resulting mixture was concentrated under vacuum and purified via silica gel column (ethyl acetate/petroleum ether (1:20)), yielding 180 mg (84%) of methyl 2-phenyl-3-(4-(4-(trifluoromethyl)phenyl)piperidin-1-yl)quinoxaline-6-carboxylate as a yellow solid.

reactant | 4-(4-(trifluoromethyl)phenyl)piperidine | 0.87 mmol, 200 mg, 2.00 equiv | FC(C1=CC=C(C=C1)C1CCNCC1)(F)F | C12H14F3N
reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.44 mmol, 150 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | DIEA | 1.31 mmol, 169 mg, 3.00 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | methyl 2-phenyl-3-(4-(4-(trifluoromethyl)phenyl)piperidin-1-yl)quinoxaline-6-carboxylate | 180 mg, 84% | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2N=C1N1CCC(CC1)C1=CC=C(C=C1)C(F)(F)F)C(=O)OC | C28H24F3N3O2
